US05130428
2-Amino-4-(n-propoxy)-6-trifluoromethyl-1,3,5-triazine
20.0 g (71 mmol) of 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine were added at 22° C. to a solution of 0.58 g (7.1 mmol) of sodium propanolate in 40 ml of propanol. The resulting yellow mixture was then heated at 75° C. for 30 minutes, after which a further 0.58 g (7.1 mmol) of sodium propanolate in 10 ml of propanol was added and the mixture was heated at 75° C. for 10 minutes. The reaction mixture was cooled to 20° C. and then neutralized with 2 normal aqueous hydrochloric acid. After this, most of the solvent was removed under reduced pressure, and the residue was slowly diluted with 40 ml of water. The solid which formed was separated off, washed with 5 ml of water and dried at 40° C. under reduced pressure.

reactant | 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine | 71 mmol, 20.0 g | NC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(F)(F)F | C5H2Cl3F3N4
reactant | sodium propanolate | 7.1 mmol, 0.58 g | C(CC)[O-].[Na+]
reactant | sodium propanolate | 7.1 mmol, 0.58 g | C(CC)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | propanol | 40 ml | C(CC)O | C3H8O
solvent | propanol | 10 ml | C(CC)O | C3H8O
product | 2-Amino-4-(n-propoxy)-6-trifluoromethyl-1,3,5-triazine | NC1=NC(=NC(=N1)OCCC)C(F)(F)F | C7H9F3N4O
